US07833939B2
0.57 g (6.8 mmoles) of O-methylhydroxylamine hydrochloride and 0.56 g (6.8 mmoles) of sodium acetate were added to a solution of 1.0 g (3.4 mmoles) of 3-(4-acetyl-2,5-dimethylthiophen-3-ylmethylthio)-5,5-dimethyl-2-isoxazoline dissolved in 50 ml of ethanol. The mixture was stirred for 5 hours under refluxing, to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 0.4 g (36.4%) of 5,5-dimethyl-3-[2,5-dimethyl-4-(1-methoxyiminoethyl)-thiophen-3-ylmethylthio]-2-isoxazoline as a yellow oily substance.

reactant | O-methylhydroxylamine hydrochloride | 6.8 mmoles, 0.57 g | Cl.CON
reactant | sodium acetate | 6.8 mmoles, 0.56 g | C(C)(=O)[O-].[Na+]
reactant | 3-(4-acetyl-2,5-dimethylthiophen-3-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 3.4 mmoles, 1.0 g | C(C)(=O)C=1C(=C(SC1C)C)CSC1=NOC(C1)(C)C | C14H19NO2S2
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,5-dimethyl-3-[2,5-dimethyl-4-(1-methoxyiminoethyl)-thiophen-3-ylmethylthio]-2-isoxazoline | 0.4 g, 36.4% | CC1(CC(=NO1)SCC1=C(SC(=C1C(C)=NOC)C)C)C | C15H22N2O2S2
